US07619092B2
In 40 ml of dichloromethane was dissolved 2.72 g of 2-methoxy-5-(5-trifluoromethyltetrazole-1-yl)benzaldehyde, and added thereto was 2.5 ml of 8 M methylamine in ethanol solution, 0.572 ml of acetic acid and 3.12 g of triacetoxy sodium borohydride, the mixture was stirred at room temperature for 6 hours. The reaction mixture was washed with saturated aqueous sodium hydrocarbonate solution, and the organic layers were dried and concentrate. The residue was purified by silica gel column chromatography (chloroform:methanol=49:1 to 4:1), to give 2.2 g of N-{2-methoxy-5-(5-trifluromethyltetrazole-1-yl)benzyl}-N-methylamine as shown in Table 136 below.

reactant | 2-methoxy-5-(5-trifluoromethyltetrazole-1-yl)benzaldehyde | 2.72 g | COC1=C(C=O)C=C(C=C1)N1N=NN=C1C(F)(F)F | C10H7F3N4O2
reactant | methylamine | 8 M, 2.5 ml | CN | CH5N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | 0.572 ml | C(C)(=O)O | C2H4O2
product | N-{2-methoxy-5-(5-trifluromethyltetrazole-1-yl)benzyl}-N-methylamine | 2.2 g | COC1=C(CNC)C=C(C=C1)N1N=NN=C1C(F)(F)F | C11H12F3N5O
